US04665246
reacting toluene with chloroacetyl chloride in the presence of a Friedel-Crafts catalyst in a suitable solvent to produce 4-(2-chloroacetyl)toluene,

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(2-chloroacetyl)toluene | ClCC(=O)C1=CC=C(C=C1)C | C9H9ClO
